US04399282
(Preparation of 7-propylcamptothecin)
Ferrous sulfate heptahydrate (2.8 g, 10.1 m-mol) and 1-butanol (3 ml, 43 m-mol) were dissolved in water (30 ml). Camptothecin (500 mg, 1.43 m-mol) was suspended in the solution and dissolved therein by addition of concentrated sulfuric acid (15 ml). To this solution was added dropwise under ice-cooling and agitation a 30% aqueous solution of hydrogen peroxide (1.1 ml, 10.1 m-mol) in small portions. The agitation was continued for 4 hours at room temperature. The reaction mixture was diluted with ice water (1.5 l) and extracted with chloroform (2 l). The chloroform layer was dried with magnesium sulfate, filtered and evaporated until dryness under reduced pressure. The residue was subjected to column chromatography (chloroform) through silica gel (15 g) to effect separation and purification of the product which was then recrystallized from n-hexane-chloroform whereby 110 mg (21.0%) of the objective compound were obtained as light yellow white needle crystals. M.P. 260°-261° C.

reactant | 1-butanol | 3 ml | C(CCC)O | C4H10O
reactant | Camptothecin | 500 mg | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=CC=CC5=NC4C3=C2)O | C20H16N2O4
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 1.1 ml | OO | H2O2
solvent | water | 30 ml | O | H2O
product | 7-propylcamptothecin | CCCC1=C2CN3C(=CC4=C(C3=O)COC(=O)[C@@]4(CC)O)C2=NC5=CC=CC=C51 | C23H22N2O4
